US05116981
3-Hydroxy-undec-5Z-ene-1-yne Method A
3-Hydroxy-1-trimethylsilyl-undec-5Z-ene-1-yne (6.3 g, 26 mmole) is dissolved in 100 ml dry THF in a flame dried 250 ml one-neck round bottom flask under nitrogen. The solution is cooled to 0° C. and treated slowly dropwise with tetrabutylammonium fluoride (1.0M/THF; 32 ml, 32 mmole). The reaction is stirred one hour at 0° C., quenched with 50 ml 90% saturated sodium chloride, and the THF removed in vacuo. The aqueous residue is extracted with 4×20 ml diethyl ether. The organics are combined, washed with 1×50 ml saturated sodium chloride, and dried over magnesium sulfate. The organics are concentrated in vacuo to a dark amber oil. The crude oil is chromatographed over 100 g silica gel (230-400 mesh), eluting with 8% ethyl acetate/hexane and collecting 20 ml fractions. Fractions 16-39 are combined and concentrated to provide 3.87 g of the title compound as a yellow oil.

reactant | 3-Hydroxy-1-trimethylsilyl-undec-5Z-ene-1-yne | 26 mmole, 6.3 g | OC(C#C[Si](C)(C)C)C\C=C/CCCCC | C14H26OSi
reactant | tetrabutylammonium fluoride | 32 mmole, 1.0M, 32 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Hydroxy-undec-5Z-ene-1-yne | 3.87 g | OC(C#C)C\C=C/CCCCC | C11H18O
